* PSpice Model Editor - Version 10.5.0
*$
*PART NUMBER:NJM062C
*JFET OPAMP
*Version:2
*Please note that the inaccuracy is involved to it when you use this model.
*Please refrain from the model's resale.
********************************************
*Model Generated by NEW JAPAN RADIO CO.,LTD*
*            All Rights Reserved           *
*   Commercial Use or Resale Restricted    *
********************************************
.SUBCKT NJM062C OUT1 -IN1 +IN1 V- +IN2 -IN2 OUT2 V+
X1 +IN1 -IN1 V+ V- OUT1 njm062c_s
X2 +IN2 -IN2 V+ V- OUT2 njm062c_s
.ENDS NJM062C
*$
* connections:    non-inverting input
*                 | inverting input
*                 | | positive power supply
*                 | | | negative power supply
*                 | | | | output
*                 | | | | |
*                 | | | | |
.subckt njm062c_s 1 2 3 4 5
C1 11 12 {C1}
C2 15 16 {C2}
CS 10 0 {CS}
D1 16 17 DMOD1
D2 17 16 DMOD1
D3 5 18 DMOD2
D4 19 5 DMOD2
D5 10 20 DMOD2
VTL 3 20 {VTL}
GB 16 0 15 0 {GB}
GA 15 0 11 12 {GA}
GC 0 17 5 0 {GC}
GCM 0 15 10 0 {GCM}
ITL 3 10 {ITL}
M1 11 2 13 13 PMOS1 
M2 12 NET1 14 14 PMOS2 
RO1 16 5 {RO1}
RC 17 0 {RC}
RO2 16 0 {RO2}
R2 15 0 100E3
RD1 11 21 {RD1}
RD2 12 22 {RD2}
VRD1 21 4 {VRD}
VRD2 22 4 {VRD}
RS2 10 14 {RS2}
RS1 10 13 {RS1}
IDS 3 4 {IDS}
RP 3 4 {RP}
Vos 1 NET1 DC {VOS}
VS 19 4 DC {VS}
VD 3 18 DC {VD}

.MODEL DMOD1 D(T_MEASURED = 25 IS = 2.19E-07)
.MODEL DMOD2 D(T_MEASURED = 25 IS = 8.00E-16)
.MODEL PMOS1 PMOS(LEVEL = 1 VTO = -4.89E-01
+ KP = 4.01E-05 L = {L_VAL} W = {W_VAL} TOX = 1.30E-08 U0 = 1.51E+02)
.MODEL PMOS2 PMOS(LEVEL = 1 VTO = -4.89E-01
+ KP = 4.01E-05 L = {L_VAL} W = {W_VAL} TOX = 1.30E-08 U0 = 1.51E+02)
*
.PARAM
+ C1   = 2.47E-12
+ C2   = 1.78E-11
+ CS   = 0.00E+00
+ GCM  = 3.68E-09
+ GA   = 1.16E-04
+ GB   = 68.66
+ GC   = 79053.8645
+ ITL  = 6.33E-05
+ RD1  = 8602.55
+ RD2  = 8602.55
+ RC   = 1.26E-05
+ RS1  = 8240.18
+ RS2  = 8240.18
+ RO1  = 50
+ RO2  = 25
+ RP   = 3.71E+05
+ VD   = 2.26366
+ VS   = 2.26389
+ VOS  = 2.975485E-03
+ IDS  = 86.3E-6
+ VTL  = 1.65E+00
+ VRD  = 1.85E+00
+ L_VAL= 1.50E-07
+ W_VAL= 4.50E-04

.ends njm062c_s
*$
